US04929741
71.6 ml of n-butyllithium solution (1.6M in hexane) were added to a solution of 9.6 ml (0.115 mol) of methyl propiolate in 195 ml of tetrahydrofuran/ether/hexane (4:2:1) at -110° . The mixture was stirred at -110° for 20 minutes, whereupon 15.0 g (76.4 mmol) of 3,4,5 -trimethoxybenzaldehyde in 15 ml of ether were added within 20 minutes. The reaction mixture was stirred at -78° for a further 90 minutes, then brought slowly to room temperature and thereupon treated with 100 ml of saturated ammonium chloride solution. The aqueous phase was extracted twice with ethyl acetate. The combined organic phases were dried over magnesium sulphate and evaporated. Chromatography on silica gel with ethyl acetate/hexane (1:2) yielded methyl 4-hydroxy-4-(3,4,5 -trimethoxyphenyl)-2-butynoate.

reactant | n-butyllithium | 1.6M, 71.6 ml | C(CCC)[Li]
reactant | methyl propiolate | 0.115 mol, 9.6 ml | C(C#C)(=O)OC | C4H4O2
reactant | 3,4,5 -trimethoxybenzaldehyde | 76.4 mmol, 15.0 g | COC=1C=C(C=O)C=C(C1OC)OC | C10H12O4
reactant | ammonium chloride | 100 ml | [Cl-].[NH4+]
solvent | tetrahydrofuran ether hexane | 195 ml | O1CCCC1.CCOCC.CCCCCC
solvent | ether | 15 ml | CCOCC | C4H10O
product | methyl 4-hydroxy-4-(3,4,5 -trimethoxyphenyl)-2-butynoate | OC(C#CC(=O)OC)C1=CC(=C(C(=C1)OC)OC)OC | C14H16O6
